US08859561B2
To a solution of 3-methyl-7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine (100 mg, 0.440 mmol) in DMF (1 mL) was added a suspension of sodium hydride (52 mg, 1.32 mmol) in DMF (1 mL). After stirring for 5 min at RT, a solution of 2-chloro-1-(piperidin-1-yl)ethanone (142 mg, 0.881 mmol) in DMF (1 mL) was added to the reaction mixture, and stirring continued for 2 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtained was purified by silica gel flash chromatography to yield 2-(3-methyl-8,9,9a,10-tetrahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizin-11(7H)-yl)-1-(piperidin-1-yl)ethanone;

reactant | 3-methyl-7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine | 0.440 mmol, 100 mg | CC1=CC2=C(NC3=C2CN2CCCC2C3)N=C1 | C14H17N3
reactant | sodium hydride | 1.32 mmol, 52 mg | [H-].[Na+]
reactant | 2-chloro-1-(piperidin-1-yl)ethanone | 0.881 mmol, 142 mg | ClCC(=O)N1CCCCC1 | C7H12ClNO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-methyl-8,9,9a,10-tetrahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizin-11(7H)-yl)-1-(piperidin-1-yl)ethanone | CC1=CC2=C(N(C3=C2CN2CCCC2C3)CC(=O)N3CCCCC3)N=C1 | C21H28N4O
